US04051248
1-Phenyl-8-[(trans-1,2,3,4-tetrahydro-1-hydroxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one
1-Phenyl-8-[(1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one (5.0 g) is suspended in methanol (100 ml) and treated over a 20 minute period with excess sodium borohydride dissolved in water (25 ml). The resulting mixture is stirred at room temperature for 15 hours. The reaction is diluted with water (200 ml), stirred for 30 minutes, and filtered to give the crude product. Two recrystallizations of this material from absolute ethanol yield 3.8 g of isomerically pure title compound, melting point 240°-242° C.

reactant | 1-Phenyl-8-[(1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one | 5.0 g | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CC2C(C1=CC=CC=C1CC2)=O)=O | C24H27N3O2
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 1-Phenyl-8-[(trans-1,2,3,4-tetrahydro-1-hydroxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)C[C@H]2[C@@H](C1=CC=CC=C1CC2)O)=O | C24H29N3O2
